US04432971
(d) 1-[N2 -[(4-Phenylbutyl)(phenylmethoxy)phosphinyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysyl]-L-proline, phenylmethyl ester
A half saturated solution of dry chlorine in carbon tetrachloride is added dropwise by syringe to a solution of (4-phenylbutyl)phosphinic acid, phenylmethyl ester (1.0 g., 3.47 mmole), from Example 1 (c), in 5 ml. of dry carbon tetrachloride under argon until the yellow color of excess chlorine persists. The mixture is evaporated to dryness (0.15 mm. of Hg), and the residue is taken up in 5 ml. of dry tetrahydrofuran and treated with 1-[N6 -[(phenylmethoxy)carbonyl]-L-lysyl]-L-proline, phenylmethyl ester, hydrochloride salt (1.74 g., 3.4 mmole). The resulting suspension is cooled to 0° (ice bath) under argon and treated dropwise with a solution of triethylamine (1.2 ml.) in 6 ml. of dry tetrahydrofuran over a 15 minute period. After the addition is complete, the mixture is stirred at 0° for 15 minutes, then allowed to warm to room temperature and stirred for an additional one hour. The mixture is diluted with ethyl acetate, filtered and evaporated to dryness. The residue is taken up in ethyl acetate, washed successively with 5% potassium bisulfate, water, saturated sodium bicarbonate, saturated sodium chloride, dried (Na2SO4), and evaporated. The residue (3.2 g.) is purified by flash chromatography on silica gel (120 g.) eluting with dichloromethane-hexane (5:1) to give 1.62 g. of 1-[N2 -[(4-phenylbutyl)(phenylmethoxy)phosphinyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysyl]-L-proline,phenyl methyl ester as a colorless oil. Tlc (dichloromethane/acetone; 4:1) single spot at Rf 0.42.

reactant | chlorine | ClCl | Cl2
reactant | (4-phenylbutyl)phosphinic acid, phenylmethyl ester | 3.47 mmole, 1.0 g | C1(=CC=CC=C1)CCCCP(OCC1=CC=CC=C1)=O | C17H21O2P
reactant | 1-[N6 -[(phenylmethoxy)carbonyl]-L-lysyl]-L-proline, phenylmethyl ester, hydrochloride salt | 3.4 mmole, 1.74 g | Cl.C1(=CC=CC=C1)COC(=O)NCCCC[C@H](N)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane acetone | ClCCl.CC(=O)C
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
product | 1-[N2 -[(4-Phenylbutyl)(phenylmethoxy)phosphinyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysyl]-L-proline, phenylmethyl ester | C1(=CC=CC=C1)CCCCP(=O)(N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)OCC1=CC=CC=C1 | C43H52N3O7P
